US04753936
4-(2,1,3-Benzoxadiazol-4-yl)-1.4-dihydro-2.6-dimethyl-5-nitro-pyridine-3-carboxylic acid 4-(3-trifluoromethylphenyl) piperazide
7.4 g (50 mmol) of 2.1.3-benzoxadiazole-4-aldehyde, 10 g (0.1 mol) of nitroacetone and 15.6 g (50 mmol) of 3-aminocrotonic acid 4-(3-trifluoromethylphenyl)piperazide are heated in isopropanol at 60° C. for 6 hours. The product crystallizes after part of the solvent has been evaporated off, and is recrystallized from a little isopropanol.

reactant | 2.1.3-benzoxadiazole-4-aldehyde | 50 mmol, 7.4 g | N=1ON=C2C1C=CC=C2C=O | C7H4N2O2
reactant | nitroacetone | 0.1 mol, 10 g | [N+](=O)([O-])CC(C)=O | C3H5NO3
reactant | 3-aminocrotonic acid 4-(3-trifluoromethylphenyl)piperazide | 50 mmol, 15.6 g | FC(C=1C=C(C=CC1)N1CCN(CC1)C(\C=C(\C)/N)=O)(F)F | C15H18F3N3O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 4-(2,1,3-Benzoxadiazol-4-yl)-1.4-dihydro-2.6-dimethyl-5-nitro-pyridine-3-carboxylic acid 4-(3-trifluoromethylphenyl) piperazide | FC(C=1C=C(C=CC1)N1CCN(CC1)C(=O)C1=C(NC(=C(C1C1=CC=CC2=NON=C21)[N+](=O)[O-])C)C)(F)F | C25H23F3N6O4
